US05464863
In further detail, a compound (XIV) is reacted with a benzoyl chloride in the presence of a Lewis acid (e.g. aluminum chloride or tin tetrachloride) to obtain a compound (XV). Usually, this reaction can be carried out by the use of or without a solvent (e.g. carbon disulfide or nitrobenzene) in a temperature range of room temperature to about 100° C. Then, the compound (XV) is reacted with chloroacetic acid in a temperature range of approximately 80°-130° C. to obtain benzothiophene or a derivative thereof (IIb).

reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | carbon disulfide | C(=S)=S | CS2
product | benzothiophene | S1C=CC2=C1C=CC=C2 | C8H6S
